US08097708B2
Synthesis of benzyl 4-(oxiran-2-ylmethyl)piperazine-1-carboxylate
By using 1-benzyloxycarbonylpiperazine (6 ml) and (±)-epichlorohydrin (2.4 ml) as starting materials, the title compound (7.80 g) was obtained in the same manner as that of Reference Example 33.

reactant | 1-benzyloxycarbonylpiperazine | 6 ml | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | (±)-epichlorohydrin | 2.4 ml | C(Cl)C1CO1 | C3H5ClO
product | benzyl 4-(oxiran-2-ylmethyl)piperazine-1-carboxylate | 7.80 g | O1C(C1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
